US07820699B2
74.1 Using the method described in example 73.1, 1,4-diiodobenzene was reacted with 2-hydroxypyridine to give 1-(4-iodo-phenyl)-1H-pyridin-2-one. Pale yellow solid. MS: 298.1 (M+H)+

reactant | 1,4-diiodobenzene | IC1=CC=C(C=C1)I | C6H4I2
reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
product | 1-(4-iodo-phenyl)-1H-pyridin-2-one | IC1=CC=C(C=C1)N1C(C=CC=C1)=O | C11H8INO
